US05681833
1. 2(tert-Butylamino)benzophenone
A mixture of 2-aminobenzophenone (20 g), tert-butyl alcohol (100 ml) and 10M ethanolic hydrogen chloride (10 ml) was heated in a steel bomb at 120° C. for 20 minutes. After being cooled to room temperature, solvents were removed under vacuum and the residue was purified by flash chromatography (silica gel, hexane-toluene, 30:70) to give the title compound (5.62 g) as an oil, δH (360 MHz, CDCl3) 8.95 (1H, s), 7.61-7.28 (7H, m), 7.01 (1H, d, J=8.6 Hz), 6.48 (1H, t, J=7.4 Hz), 1.49 (9H, s); m/z (CI) 253 (M-).

reactant | 2-aminobenzophenone | 20 g | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | hydrogen chloride | 10M, 10 ml | Cl | ClH
solvent | tert-butyl alcohol | 100 ml | C(C)(C)(C)O | C4H10O
product | 2(tert-Butylamino)benzophenone | 5.62 g | C(C)(C)(C)NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C17H19NO
